### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal): the inertia degree and ramification index are less than the rank

### PR DESCRIPTION
**Pull request by xroblot**
Also prove that `primesOverFinset` is less than the rank. These are all easy consequences of [Ideal.sum_ramification_inertia](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/RamificationInertia/Basic.html#Ideal.sum_ramification_inertia)

---

### CODE REVIEW

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 1]
```diff
@@ -894,12 +895,37 @@ theorem sum_ramification_inertia (K L : Type*) [Field K] [Field L] [IsDedekindDo
...
   · exact finrank_quotient_map p K L
 
+theorem inertiaDeg_le_finrank [NoZeroSMulDivisors R S] {p : Ideal R} [p.IsMaximal] (hp0 : p ≠ ⊥)
+    (P : Ideal S) [hP₁ : P.IsPrime] [hP₂ : P.LiesOver p] :
+    p.inertiaDeg P ≤ Module.finrank K L := by
+  classical
+  have hP : P ∈ primesOverFinset p S := (mem_primesOverFinset_iff hp0 _).mpr ⟨hP₁, hP₂⟩
+  rw [← sum_ramification_inertia S K L hp0, ← Finset.add_sum_erase _ _ hP]
+  refine le_trans (Nat.le_mul_of_pos_left _ ?_) (Nat.le_add_right _ _)
+  exact Nat.pos_iff_ne_zero.mpr <| IsDedekindDomain.ramificationIdx_ne_zero_of_liesOver _ hp0
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean]: This is true for `p = ⊥` because `p.inertiaDeg P = Module.finrank R S`, but maybe we don't care?

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 2]
```diff
@@ -894,12 +895,37 @@ theorem sum_ramification_inertia (K L : Type*) [Field K] [Field L] [IsDedekindDo
...
+
+theorem ramificationIdx_le_finrank [NoZeroSMulDivisors R S] {p : Ideal R} [p.IsMaximal]
+    (hp0 : p ≠ ⊥) (P : Ideal S) [hP₁ : P.IsPrime] [hP₂ : P.LiesOver p] :
+    p.ramificationIdx (algebraMap R S) P ≤ Module.finrank K L := by
+  classical
+  have hP : P ∈ primesOverFinset p S := (mem_primesOverFinset_iff hp0 _).mpr ⟨hP₁, hP₂⟩
+  rw [← sum_ramification_inertia S K L hp0, ← Finset.add_sum_erase _ _ hP]
+  refine le_trans (Nat.le_mul_of_pos_right _ ?_) (Nat.le_add_right _ _)
+  exact Nat.pos_iff_ne_zero.mpr <|  inertiaDeg_ne_zero p P
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean:933]: This is also true for `p = ⊥` by simp, hopefully.

Comment (xroblot) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean:933]: Yes. Thanks!

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean]: I added the lemma that says that `⊥.inertiaDeg P = Module.finrank R S` but I do not think that helps here since don't have `Module.finrank R S ≤ Module.finrank K L` in general, unless I am mistaken

**Review by erdOne — APPROVED** [review]
Sorry for dropping the ball. 
Thanks!
maintainer merge

**Comment by bryangingechen** [comment]
Please merge `master` and fix any errors, then put back on the queue, thanks!
bors r-
bors d+

**Comment by xroblot** [comment]
> Hmm, it seems there is still an error...

Yeah, this PR seems to be cursed ;)
